US04831153
In a three-necked flask equipped with a mechanical stirrer and reflux condenser, ethanol is acidified to a pH of 0.5-1.5 with 8 percent methanolic HCl. To the cooled alcohol is added acetaldehyde. The addition is so conducted that the temperature of the mixture stays under 40° C. The solution is stirred at room temperature for 2 hours after the completion of addition. The mole ratio of alcohol to acetaldehyde is about 1.5:1. 5-Ethyl-2-oxazolidinone (mole ratio of acetaldehyde to 2-oxazolidinone is 3:1) is added dropwise to the solution. The mixture is then stirred for 24 hours at 45° C. The mixture is then neutralized to a pH of 6.5-8 with a solution of sodium methoxide. After removing the unconsumed hemiacetal and alcohol under vacuum, the liquid 3-(1-ethoxyethyl)-5-ethyl-2-oxazolidinone is obtained.

reactant | HCl | Cl | ClH
reactant | acetaldehyde | C(C)=O | C2H4O
reactant | 5-Ethyl-2-oxazolidinone | C(C)C1CNC(O1)=O | C5H9NO2
reactant | sodium methoxide | C[O-].[Na+]
reactant | ethanol | C(C)O | C2H6O
product | 3-(1-ethoxyethyl)-5-ethyl-2-oxazolidinone | C(C)OC(C)N1C(OC(C1)CC)=O | C9H17NO3
